US07732596B2
7-(4-Methylbenzyl)benzo[b]thiophene
To a suspension of sodium iodide (2.0 g) in acetonitrile was added chlorotrimethylsilane (1.5 g) at room temperature. After the mixture was stirred at room temperature for 15 minutes, benzo[b]thiophen-7-yl-p-tolylmethanol (0.68 g) was added to the mixture, and the mixture was stirred at room temperature for 15 minutes. The reaction mixture was poured into water, and the mixture was extracted with hexane. The organic layer washed with water and brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane) to give the title compound (0.57 g) as colorless oil.

reactant | sodium iodide | 2.0 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 1.5 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | benzo[b]thiophen-7-yl-p-tolylmethanol | 0.68 g | S1C2=C(C=C1)C=CC=C2C(O)C2=CC=C(C=C2)C | C16H14OS
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-(4-Methylbenzyl)benzo[b]thiophene | 0.57 g | CC1=CC=C(CC2=CC=CC3=C2SC=C3)C=C1 | C16H14S
